US07101886B2
N-[4-(2-BROMO-ACETYL)-2-FLUORO-PHENYL]-ACETAMIDE
N-(4-Acetyl-2-fluoro-phenyl)-acetamide (3.55 g, 18.2 mmol) was dissolved in boiling chloroform (100 mL). Under reflux conditions, a solution of bromine (0.86 mL, 17.5 mmol) in chloroform (20 mL) was added. The reaction mixture was refluxed for an additional 20 min. then cooled, concentrated to give an orange residue. The residue was taken up in ethanol (50 mL) and then diethyl ether (20 mL) was added and the resulting solution cooled to 0° C. A yellow solid precipitated over 48 h and was collected by filtration, washed with cold ethanol (10 mL) and dried to give 2.40 g (8.77 mmol) of the desired product as a yellow powder. Yield: 48.2%; mp 184° C.; 1H NMR (400 MHz, DMSO-d6) δ 10.15 (s, 1H, NH, 8.29 (t, J=8.0 Hz, 1H), 7.88–7.83 (m, 2H), 4.90 (s, 2H, CH2), 2.17 (s, 3H, Me).

reactant | N-(4-Acetyl-2-fluoro-phenyl)-acetamide | 18.2 mmol, 3.55 g | C(C)(=O)C1=CC(=C(C=C1)NC(C)=O)F | C10H10FNO2
reactant | bromine | 17.5 mmol, 0.86 mL | BrBr | Br2
reactant | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[4-(2-BROMO-ACETYL)-2-FLUORO-PHENYL]-ACETAMIDE | 8.77 mmol, 2.40 g, Yield: 48.2% | BrCC(=O)C1=CC(=C(C=C1)NC(C)=O)F | C10H9BrFNO2
